US07799933B2
A solution of 1-(3,5-dimethyl-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carboxylic acid (0.20 g, 0.60 mmol) in dimethylformamide (1.00 mL) under argon was treated with N-methyl morpholine (0.31 g, 0.33 mL, 3.01 mmol), HATU (0.34 g, 0.90 mmol) and (2-amino-thiazol-4-yl)-acetic acid ethyl ester (0.17 g, 0.91 mmol). The mixture was stirred at room temperature for 30 min, then treated with 4-dimethylaminopyridine (0.07 g, 0.60 mmol). The mixture was warmed to 60° C. and stirred for 50 hours. After cooling to room temperature the mixture was partitioned between water and ethyl acetate. The organic phase was washed with brine, dried over magnesium sulphate and evaporated. The residue was purified via flash chromatography (heptane/ethyl acetate gradient) to yield (2-{[1-(3,5-dimethyl-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carbonyl]-amino}-thiazol-4-yl)-acetic acid ethyl ester as an off-white solid, 0.10 g (35%), MS (ISP): m/e=500.4 (M+H).

reactant | 1-(3,5-dimethyl-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carboxylic acid | 0.60 mmol, 0.20 g | CC=1C=C(C=C(C1)C)S(=O)(=O)N1CCC2=CC=C(C=C12)C(=O)O | C17H17NO4S
reactant | N-methyl morpholine | 3.01 mmol, 0.33 mL, 0.31 g | CN1CCOCC1 | C5H11NO
reactant | HATU | 0.90 mmol, 0.34 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2-amino-thiazol-4-yl)-acetic acid ethyl ester | 0.91 mmol, 0.17 g | C(C)OC(CC=1N=C(SC1)N)=O | C7H10N2O2S
solvent | dimethylformamide | 1.00 mL | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 0.60 mmol, 0.07 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (2-{[1-(3,5-dimethyl-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carbonyl]-amino}-thiazol-4-yl)-acetic acid ethyl ester | C(C)OC(CC=1N=C(SC1)NC(=O)C1=CC=C2CCN(C2=C1)S(=O)(=O)C1=CC(=CC(=C1)C)C)=O | C24H25N3O5S2
